* source 1_6
X_U1         N01149 N00738 N01359 N00875 N00994 uA741
R_R1         N00711 N00994  51k  
R_R2         N00711 N00738  51k  
R_R3         N00775 N00711  10k  
R_R4         0 N00738  51  
R_R5         0 N01149  51  
V_V1         N01359 0 12Vdc
V_V2         0 N00875 12Vdc
V_V3         N00775 0 DC 0Vdc AC 1Vac 
