* source 1_6CMRR
R_R1         N00736 N00929  51k  
R_R2         N00698 N00736  51  
R_R3         N00698 N01021  51  
R_R4         0 N01021  51k  
X_U2         N01021 N00736 N01123 N00887 N00929 uA741
V_V1         N01123 0 12Vdc
V_V2         0 N00887 12Vdc
V_V3         N00698 0  
+SIN 0 1 100 0 0 0
