* source 1_6_9
R_R1         N00779 N00806  22k  
R_R2         N00745 N00779  11k  
R_R3         0 N00946  10k  
R_R4         N00946 N00879  10k  
C_C1         N00779 N00879  1000p  
C_C2         0 N00806  1000p  
X_U2         N00806 N00946 N01178 N01136 N00879 uA741
V_V1         N01178 0 12Vdc
V_V2         0 N01136 12Vdc
V_V3         N00745 0 DC 0Vdc AC 1Vac 
