* source 1_6_5A
R_R1         N00922 N01299  100k  
R_R4         N01087 N00922  10k  
R_R2         N00892 N00922  10k  
V_V3         N00892 0 0.5Vdc
R_R3         0 N01347  4.7k  
V_V4         N01087 0 0.25Vdc
V_V1         N01703 0 12Vdc
X_U2         N01347 N00922 N01703 N01238 N01299 uA741
V_V2         0 N01238 12Vdc
