* source 1_6_11_4JIE
R_R8         N01257 N01200  15k  
X_U1         N01513 N01424 N00879 N00995 N01317 uA741
V_V3         N006591 0 DC 0Vdc AC 1Vac 
C_C1         N01486 N01317  3300p  
C_C2         N01257 N01108  1000p  
X_U2         N01200 N01173 N00879 N00995 N01108 uA741
C_C3         0 N01513  470p  
R_R1         0 N01424  1g  
C_C4         0 N01200  820p  
R_R2         N01424 N01317  10k  
V_V1         N00879 0 12Vdc
R_R3         0 N01173  1g  
V_V2         0 N00995 12Vdc
R_R4         N01173 N01108  10k  
R_R5         N006591 N01486  15k  
R_R6         N01486 N01513  11k  
R_R7         N01317 N01257  22k  
