* source 1_6_9_HIGH
C_C2         N00806 N00806  1000p  
R_R1         N00806 N01000  11k  
R_R2         0 N00806  22k  
X_U2         N00806 N00973 N01193 N01151 N01000 uA741
R_R3         N00973 0  1g  
R_R4         N01000 N00973  10k  
V_V1         N01193 0 12Vdc
V_V2         0 N01151 12Vdc
V_V3         N00701 0 DC 0Vdc AC 1Vac 
C_C1         N00701 N00806  1000p  
