* source 1_11
V_V4         N01943 0  
+SIN 0 1 10.1k 0 0 0
L_L3         N01943 N01981  8.3m  
C_C3         N01981 N02008  300p  
R_R2         0 N02008  510  
