* source 2_1B
R_R1         N00771 N00733  430k  
R_R6         0 N01246  10k  
R_R2         N00827 N00733  1.8k  
R_R3         0 N00771  130K  
R_R4         0 N00798  220  
V_VCC         N00733 0 12Vdc
C_C1         0 N00798  62u  
V_V3         N01050 0  
+SIN 0 5m 10K 0 0 0
C_C2         N01246 N00827  10u  
C_C3         N00771 N01050  10u  
M_M1         N00827 N00771 N00798 N00798 M2N6660
