* source 1_6SR
X_U2         N00852 N00813 N01136 N01000 N01088 uA741
R_R1         N00813 N01088  10k  
R_R2         N00759 N00813  10k  
R_R3         0 N00852  5.1k  
V_V1         N01136 0 12Vdc
V_V2         0 N01000 12Vdc
V_V4         N00759 0  
+SIN 0 4 20k 0 0 0
