* source 1_3_1
C_C5         0 N02265  100u  
R_R2         N02294 N01723  11k  
C_C6         0 N02015  100u  
R_R3         N02236 N01723  24  
R_R4         N02015 N01723  12k  
R_R5         N01966 N01723  430  
V_V2         N01723 0 12Vdc
C_C1         N01297 N02294  10u  
R_R6         N01936 N01723  2k  
C_C2         N02236 N02096  10u  
C_C7         N01688 N08666  1n  
R_R7         0 N01936  6.2k  
C_C3         N01966 N01936  10u  
V_V4         N01297 0  
+SIN 0 0.5m 100k 0 0 0
R_R8         0 N01688  620  
R_R14         0 N08666  1g  
R_R9         0 N02096  150  
Q_Q1         N02236 N02294 N02265 Q2N2222
R_R10         0 N02015  3.6k  
Q_Q2         N01966 N02015 N02096 Q2N2222
R_R11         0 N02265  300  
Q_Q3         N01723 N01936 N01688 Q2N2222
R_R12         0 N02294  18k  
