* source 1_4_1
R_R1         N00994 N00965  6.8k  
V_V5         0 N00883 6Vdc
R_R2         N00994 N00774  620  
R_R3         N00965 N00774  620  
R_R4         N00883 N01129  560  
V_V1         N01236 N01193  
+SIN 0 5m 1 0 0 0
V_V2         N01193 0  
+SIN 0 0 1 0 0 0
V_V3         N01193 N01089  
+SIN 0 5m 1 0 0 0
Q_Q1         N00994 N01236 N01129 Q2N2222
Q_Q2         N00965 N01089 N01129 Q2N2222
V_V4         N00774 0 6Vdc
