* source 1_4_3
Q_Q5         N02958 N02958 N03694 Q2N2605
Q_Q9         N01129 N01872 N01808 Q2N2222
V_V5         0 N00883 6Vdc
R_R2         N005091 N00774  51  
R_R7         N03694 N00774  51  
Q_Q10         N01872 N01872 N01779 Q2N2222
R_R3         N005311 N00774  51  
V_V3         N01258 0 DC 0Vdc AC 5mVac 
R_R8         N03665 N00774  160  
R_R4         N00883 N01808  100  
Q_Q2         N00965 N01089 N01129 Q2N2222
R_R9         0 N00965  1k  
V_V2         0 N01089 DC 0Vdc AC 5mVac 
Q_Q3         N00965 N03909 N005311 Q2N2605
Q_Q4         N00994 N03909 N005091 Q2N2605
R_R5         N01872 N02958  1.1k  
Q_Q1         N00994 N01258 N01129 Q2N2222
Q_Q11         N00883 N00994 N03909 Q2N2605
R_R6         N00883 N01779  51  
Q_Q6         N00965 N02958 N03665 Q2N2605
V_V4         N00774 0 6Vdc
