* source 1_5_1
V_V2         N01393 0 DC 0Vdc AC 1mVac 
R_R2         N01898 N00944  1.8k  
C_C2         N01423 N01393  10u  
R_R3         N01642 N01580  47  
C_C3         N03477 N01393  100u  
R_R4         0 N01642  1.5k  
C_C4         0 N01472  100u  
R_R5         0 N01669  68k  
C_C5         0 N01642  100u  
Q_Q1         N01898 N01669 N01580 Q2N2222
R_R6         0 N01927  4.7k  
V_V1         N00944 0 12Vdc
Q_Q2         N01423 N01927 N01472 Q2N2222
R_R7         0 N01472  200  
C_C6         0 N01669  10u  
R_R9         N01423 N00944  1k  
R_R10         N01927 N00944  24k  
R_R11         N03477 N01580  5.1k  
R_R1         N01669 N00944  56k  
C_C1         N01898 N01927  10u  
