* source 1_5_3
R_R1         N01232 N00920  130k  
C_C2         0 N01483  100u  
R_R2         0 N01232  430k  
C_C3         0 N01021  100u  
R_R3         N01425 N00920  2k  
C_C4         N01589 N00992  10u  
R_R4         N01483 N01454  47  
C_C5         N01652 N01425  10u  
R_R5         0 N01483  5.1k  
Q_Q1         N01425 N01232 N01454 Q2N2222
R_R6         0 N01652  3.9k  
Q_Q2         N00992 N01652 N01021 Q2N2222
V_V2         N01216 0 DC 0Vdc AC 1mVac 
R_R7         N01652 N00920  24k  
V_V1         N00920 0 12Vdc
R_R8         N00992 N00920  1.2k  
R_R10         N01454 N01589  0.001  
R_R9         0 N01021  220  
C_C1         N01216 N01232  10u  
