* source 2_1_1
R_R1         N00771 N00733  15k  
V_VCC         N00733 0 12Vdc
R_R2         N00827 N00733  1.5k  
R_R3         0 N00771  3.6k  
R_R4         0 N00798  430  
C_C1         0 N00798  220u  
C_C2         N01246 N00827  47u  
C_C3         N00771 0  4.7u  
V_V2         N01246 0 DC 0Vdc AC 5mvac 
Q_Q1         N00827 N00771 N00798 Q2N2222
