* source 2_1_2
R_R1         N00771 N00733  430k  
R_R2         N00827 N00733  1.8k  
R_R3         0 N00771  130K  
R_R4         0 N00798  220  
V_VCC         N00733 0 12Vdc
C_C1         0 N00798  62u  
V_V1         N01246 0 DC 0Vdc AC 5mVac 
C_C2         N01246 N00827  10u  
C_C3         N00771 0  10u  
M_M1         N00827 N00771 N00798 N00798 M2N6660
