* source 1_6_6JIFEN
R_R1         N00789 N01024  100k  
R_R         N00735 N00789  510  
R_R3         0 N00828  470  
C_C1         N00789 N01024  0.22u  
V_V1         N00735 0  
+PULSE -0.5 0.5 0 0 0 1m 2m
V_V2         N01116 0 12Vdc
V_V3         0 N00982 12Vdc
X_U2         N00828 N00789 N01116 N00982 N01024 uA741
