* source 1_5_1_2
V_V2         N01393 0 DC 0Vdc AC 1mVac 
R_R2         N01898 N00944  1.8k  
C_C2         N01423 N01393  10u  
R_R12         N04451 N04412  5.1k  
R_R3         N01642 N01608  47  
R_R4         0 N01642  1.5k  
C_C4         0 N01472  100u  
R_R13         N04478 N04451  47  
R_R5         0 N01669  68k  
C_C5         0 N01642  100u  
Q_Q1         N01898 N01669 N01608 Q2N2222
R_R14         0 N04478  1.5k  
C_C7         0 N04654  100u  
R_R6         0 N01927  4.7k  
V_V1         N00944 0 12Vdc
Q_Q2         N01423 N01927 N01472 Q2N2222
R_R7         0 N01472  200  
C_C8         N04412 N01393  100u  
C_C6         0 N01669  10u  
C_C9         0 N04478  100u  
R_R9         N01423 N00944  1k  
R_R11         N04654 N01608  5.1k  
R_R10         N01927 N00944  24k  
R_R1         N01669 N00944  56k  
C_C1         N01898 N01927  10u  
