* source 1_5_2_2
R_R9         0 N02710  180  
C_C3         N01511 N01555  10u  
I_I1         N02055 0 DC 0Adc AC 0.1Aac 
R_R1         N01951 N01409  1.8k  
R_R10         0 N02570  3.9k  
R_R15         N036411 N01951  10k  
R_R2         N01922 N01409  1k  
R_R11         0 N02644  5.1k  
C_C5         0 N02172  100u  
R_R3         N02349 N01409  62k  
R_R12         0 N02349  110k  
C_C6         0 N02644  100u  
R_R17         0 N03866  10k  
R_R4         N02507 N01409  2.2k  
C_C8         N02055 N01951  1n  
R_R13         0 N02172  24k  
C_C7         0 N02710  100u  
R_R5         N02570 N01409  28k  
R_R14         0 N01951  3.3k  
R_R18         0 N04440  100  
C_C4         N04440 N036411  100u  
Q_Q1         N01922 N01951 N02172 Q2N2222
V_V1         N01409 0 12Vdc
R_R6         N01511 N01409  1.2k  
R_R16         0 N02055  100g  
Q_Q2         N02507 N02349 N07022 Q2N2222
C_C9         N03866 N01585  100u  
R_R7         N01585 N01555  0.001  
C_C1         N01922 N02349  10u  
Q_Q3         N01511 N02570 N02710 Q2N2222
R_R8         0 N01585  100  
C_C2         N02507 N02570  10u  
R_R19         N02644 N07022  47  
