* source 1_6_10_5JIE
R_R22         N00879 N02539  36k  
V_V13         N01094 0 12Vdc
R_R32         N00879 N01106  1g  
R_R11         N00845 N00806  20k  
R_R12         N02539 N02399  13k  
C_C22         N00879 N02399  510p  
R_R21         N00745 N00845  33k  
X_U23         N00774 N00911 N01094 N01052 N00745 uA741
R_R42         N01106 N03423  10k  
X_U21         N00806 N00946 N01178 N01136 N00879 uA741
R_R31         N00745 N00946  1g  
R_R41         N00946 N00879  10k  
V_V22         0 N02433 12Vdc
C_C11         N00845 N00879  2000p  
X_U22         N02399 N01106 N02607 N02433 N03423 uA741
C_C21         N00745 N00806  180p  
V_V23         0 N01052 12Vdc
R_R23         0 N00911  1g  
V_V11         N01178 0 12Vdc
V_V12         N02607 0 12Vdc
R_R13         N00697 N00774  16k  
V_V21         0 N01136 12Vdc
C_C12         N02539 N03423  1000p  
R_R33         N00911 N00745  10k  
C_C13         0 N00774  1000p  
V_V3         N00697 0 DC 0Vdc AC 1Vac 
