* source BJT1
R_R1         N02529 N02441  39k  
Q_Q2         N03080 N03612 N02836 Q2N2222
R_R8         N03133 N03612  30k  
Q_Q3         N03612 N03080 N02917 Q2N2605
V_V5         N05167 0 12Vdc
X_D10         0 N03133 D1N4500 
V_V2         N01528 0 -12Vdc
R_R11         N03133 N01528  20k  
R_R2         0 N02332  56k  
X_U6A         N02332 N02372 N05167 N05266 N02121 LF353/NS
X_U5A         N03133 N02836 N05167 N05266 N02917 LF353/NS
X_D9         N02787 N30585 D1N4500 
R_R13         N02917 N03824  300k  
X_U4A         N02605 N02529 N05167 N05266 N02441 LF353/NS
R_R3         N02605 0  180k  
R_R14         N02121 N03794  1k  
R_R4         N02441 N02605  430k  
C_C1         0 N02529  47n  
V_V6         0 N05266 12Vdc
R_R5         N30585 0  1.5k  
C_C2         N30585 N02441  3.4n  
Q_Q1         N03794 N03824 0 Q2N2222
R_R6         N02787 N02836  6.8k  
R_R17         N03032 N02917  1k  
C_C3         N02917 N02836  10n  
R_R10         N02441 N02372  56k  
R_R18         0 N03032  100k  
R_R7         N03080 N03032  30k  
C_C4         N02121 N02372  22n  
R_R12         N02372 N02121  590k  
